Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Contrast Dye
 
Attending: ___.
 
Chief Complaint:
left groin pain
 
Major Surgical or Invasive Procedure:
thrombin injection of aneurysm

 
History of Present Illness:
___ year old man with h/o Afib on coumadin, CAD s/p recent 
anterior MI and PCI to LAD ___ with L fem approach, who 
preesnted to outpatient cardiology with severe L groin pain x1d 
and found to have a psudoaneurysm 3x4cm.  
In the ED initial vitals were: 97.8 53 123/48 18 100%. Denies 
weakness, paresthesias, ___ edema, fevers. Patient without chest 
pain, dyspnea, palpitations, or other concerning symptoms. Able 
to ambulate and with good pulses bilaterally. Labs were notable 
for stable H/H, therapeutic INR, Cr 1.4 (baseline 1.2). Patient 
went to ___ for pseudoanurysm thrombin injection.  
Patient transferred to floor s/p ___ thrombin injection. Floor VS 
stable. Patient reports improved pain in groin. Reports stable 
numbness in LEs from chronic neuropathy and no increased edema. 
Denies any chest pain or dyspnea. Has been otherwise feeling 
well since last discharge, taking medications as prescribed.  

 
Past Medical History:
- CAD: NSTEMI ___, STEMI in ___ with BMS to LCX and BMS 
to LAD c/b pseudoaneursym 
- systolic CHF: EF = 35%
- Atrial Fibrillation  
- Prostate Cancer  
- Colonic Adenocarcinoma  
- Hypothyroidism  
- Erythromelalgia  
- Hyperuricemia  
- Neuropathy  
- Spinal Stenosis  
- B12 Deficiency  
- Celiac disease  

 
Social History:
___
Family History:
Father w/ MI in ___  
 
Physical Exam:
On admission:
Vitals - 98, 124/55, 54, 16, 100%RA  
GENERAL: Alert, oriented x3. NAD  
HEENT: Sclera anicteric, conjunctiva clear. MMM  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: regular rhythm, no murmurs  
LUNG: CTAB, no crackles or wheezes  
ABDOMEN: Soft, non-tender, non-distended. BS present  
GU: L inguinal area with 4cm firm tender swelling, no bruit or 
thrill. L femoral insertion site with bandage in place, C/D/I  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema. Distal pulses symmetric. 

On discharge:
VS: 98.0  96/43  52  16  97%RA
GENERAL: ___ in NAD. A&Ox3
HEENT: NCAT. EOMI. Moist oral mucosa. 
NECK: Supple with JVP 6 cm  
CARDIAC: RRR, S1, S2. No MGR.   
LUNGS: CTAB
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e. R femoral access site with no induration, 
no bruit, clean, dry, intact. Mild ecchymosis in L femoral area. 
   
PULSES: 2+ at DP, TP, radial bilaterally 

 
Pertinent Results:
Admission Labs:
==========================
___ 06:55PM BLOOD WBC-6.6 RBC-4.00* Hgb-12.7* Hct-40.3 
MCV-101* MCH-31.9 MCHC-31.6 RDW-13.1 Plt ___
___ 06:55PM BLOOD Neuts-70.6* Lymphs-16.8* Monos-8.1 
Eos-3.9 Baso-0.6
___ 07:31PM BLOOD ___ PTT-36.0 ___
___ 06:55PM BLOOD Plt ___
___ 06:55PM BLOOD Glucose-85 UreaN-42* Creat-1.4* Na-138 
K-4.0 Cl-98 HCO3-30 AnGap-14

Discharge Labs:
==========================
___ 07:37AM BLOOD WBC-5.5 RBC-3.89* Hgb-12.3* Hct-39.1* 
MCV-100* MCH-31.5 MCHC-31.4 RDW-13.0 Plt ___
___ 07:37AM BLOOD Plt ___
___ 07:37AM BLOOD Glucose-82 UreaN-38* Creat-1.2 Na-139 
K-4.0 Cl-101 HCO3-32 AnGap-10
___ 07:37AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.3

Microbiology:
=========================
none

Imaging:
=========================
LLE U/S ___: final read pending

Pseudoaneurysm Embolization ___: (preliminary report)
FINDINGS:  
  
Pseudoaneurysm arising from the left common femoral artery 
without a definitive neck identified. Following thrombin 
injection, the pseudoaneurysm completely occluded while common 
femoral artery patency was maintained. 

IMPRESSION:  
  
Successful thrombosis of pseudoaneurysm arising from the left 
common femoral artery. 

 
Brief Hospital Course:
___ yo ___ with a history of Afib on coumadin, CAD s/p recent 
anterior MI and PCI to LAD ___ with L fem approach, who 
presented to outpatient cardiology with severe L groin pain x 1d 
and found to have a pseudoaneurysm 3x4cm. 

# Left femoral artery aneruysm:
Pt described having pain from his hip to groin 2 days prior to 
admission that was worsened when he layed on his R side and 
while laying on his back. He went to his cardiologist, Dr. 
___ performed an U/S with revealed an aneurysm at his 
L femoral access site. Pt denies having any pain, weakness, 
edema or numbness in his LLE out of proportion to his baseline 
neuropathy. He denied any complaints of CP or SOB. Pt then was 
sent to BID for evaluation. ___ performed a thrombin injection 
with successful occlusion. Pt was transferred to floor, placed 
in straight leg cast for 4 hours, and reported improved pain in 
his groin with intact pulses. Pt was counseled to avoid any 
straining, and will be discharged with a stool softener. 

# CAD with ischemic cardiomyopathy: 
Pt with recent PCI to LAD on ___. Pt has been CP free since 
intervetion, only complicated by pseudoaneursym as described 
above. He was continued on his ASA, Plavix, and statin. He has 
f/u with his outpt cardiologist on ___.

# sCHF:
EF = 35%. dry weight = 154 lbs. Pt has recently been feeling 
woozy with his medications. His lisinopril was decreased to 2.5 
and his torsemide was held. He has not been taking his toresmide 
for the last ___ days. His torsemide will be held here with 
re-evalaution of his diruesis by his outpt cardiologst on 
___. 

# Afib: 
Pt with hx of Afib anticoagulated with warfarin and rate 
controlled without any agents. Warfarin was held yesterday for 
___ procedure and since above Goal INRof 1.8-2.2 given he's on 
ASA/plavix and at increased risk of falls. Pt was told to hold 
his warfarin until ___. His INR will be checked by his ___ on 
___ before his appointment with his outpt cardiologist on 
___.

# Hypothyroidism: 
Pt with history of hypothyroidism. He was continued on his 
levothyroxine 75 mcg. 

Transitional Issues:
-discharge weight: 70.9 kg 
-Pt has been off of his toresmide for the last ___ days due to 
feeling woozy. His lisinopril dose was also decreased at that 
time to 2.5 mg. His BP is on the low side here, and will 
continue to hold his toresemide. Please reassess his diuresis 
with torsemide. 
-Pt's instructed to hold coumadin until ___ due to INR 2.7, 
triple therapy with plavix and aspirin, and high fall risk. Will 
be rechecked by ___ on ___ with f/u with cardiologist on 
___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 
2. Temazepam 15 mg PO HS:PRN insomnia 
___  MD to order daily dose PO DAILY16 
4. Atorvastatin 80 mg PO DAILY 
5. Torsemide 10 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Levothyroxine Sodium 75 mcg PO DAILY 
9. Calcitriol 0.25 mcg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Calcitriol 0.25 mcg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. Lisinopril 2.5 mg PO DAILY 
7. Temazepam 15 mg PO HS:PRN insomnia 
8. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 17 gram/dose 17 grams by mouth 
daily, PRN Disp #*1 Bottle Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
pseudoaneurysm of left groin catheterization site

Secondary Diagnosis:
coronary artery disease
systolic congestive heart failure
atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. You were found to have an enlargement 
of the artery in your left groin (pseudoaneurysm) from the 
cardiac catheritization that was performed a few days ago. A 
procedure was performed by the interventional radiologist to fix 
the enlargement. 

Please avoid straining as much as possible (coughing, sneezing, 
etc). We will give you a stool softener to help with your bowel 
movements. If the pain worsens, please contact your 
cardiologist.

Please do not take your coumadin until ___. This 
is because your INR was elevated to 2.7. Since you are on plavix 
and aspirin, our goal INR is 1.8-2.2. You should have your INR 
checked on ___ by your ___. You have a follow up 
appointment with Dr. ___ help determine what 
dose of coumadin to be on and what you should do with your 
diuretic torsemide. 

Hope you continue to feel better. 

-Your ___ team

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs. Your weight at discharge was 70.9 kg. 
 
Followup Instructions:
___